Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
macadamia nuts
 
Attending: ___
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Ms. ___ is a ___ year old female with no significant past 
medical history presenting with LLQ abdominal pain x 2 days. 
Pain was of gradual onset and associated with nausea and several 
episodes of NBNB emesis. She presented to ___ ED on ___ 
and had CTAP which showed mild diverticulitis. She was started 
on IV antibiotics (cipro/flagyl) and remained in observation 
overnight and subsequently discharged home on PO cipro/flagyl 
the following day after her nausea and vomiting resolved. She 
comes back to the ED today with persistent abdominal pain that 
has not changed in quality or severity. She is tolerating solids 
at home, though her appetite is diminished. Her last bowel 
movement was yesterday and denies melena, hematochezia, 
hematemesis. Her nausea and vomiting have resolved. She endorses 
chills and low grade fevers at home. She also reports urinary 
frequency, but denies urgency, hematuria, dysuria. 

 
Past Medical History:
PAST MEDICAL HISTORY:
chronic UTIs (grade I reflux)
recurrent pyelonephritis (was on prophylaxis for this in the 
past)
migraine headaches
kidney stone
colonoscopy in ___ showed polyps which were biopsied and 
benign; scheduled for colonoscopy this year
.
PAST SURGICAL HISTORY
exploratory laparotomy as a child for Lt pelvic kidney with 
double collecting system and recurrent reflux (mid line incision 
and Lt flank incision)
Open appendectomy ___ at ___ (performed by Dr. ___

 
Social History:
___
Family History:
Heart disease, colon cancer
 
Physical Exam:
DISCHARGE PHYSICAL EXAM:

Vitals: Temp 98.5  HR 51  BP 113/57  RR 16  SpO2 99% RA

General: awake, alert, no acute distress
HEENT: trachea midline
CV: regular rate and rhythm
Pulm: normal respiratory effort, clear to auscultation 
bilaterally
GI: abdomen soft, non-distended, non-tender
Extremities: warm and well perfused
 
Pertinent Results:
ADMISSION LABS:

___ 09:50AM BLOOD WBC-14.3* RBC-3.91 Hgb-11.8 Hct-35.2 
MCV-90 MCH-30.2 MCHC-33.5 RDW-12.4 RDWSD-40.8 Plt ___
___ 09:50AM BLOOD Neuts-83.9* Lymphs-5.6* Monos-9.1 
Eos-0.5* Baso-0.3 Im ___ AbsNeut-12.01* AbsLymp-0.81* 
AbsMono-1.31* AbsEos-0.07 AbsBaso-0.05
___ 09:50AM BLOOD Glucose-104* UreaN-11 Creat-0.9 Na-142 
K-4.2 Cl-105 HCO3-23 AnGap-14

 
Brief Hospital Course:
Ms. ___ is a ___ year old female who presented to ___ 
___ on ___ with non resolving left 
lower quadrant abdominal pain after being discharged from ED on 
oral antibiotics (Augmentin) 3 days prior for treatment of mild 
diverticulitis. The patient did not undergo any additional 
imaging (she underwent CT abdomen during her ED visit on ___. 
She was admitted to the Acute ___ Surgery service for bowel 
rest and IV antibiotics.
.
The patient's symptoms quickly improved after receiving a dose 
of IV ciprofloxacin and flagyl. Once her abdominal pain 
resolved, she was advanced to a regular diet as tolerated and 
then transitioned to oral ciprofloxacin and flagyl. On 
___, the patient was tolerating a regular diet, voiding 
spontaneously without issue, ambulating independently, and her 
abdominal pain had resolved. She was deemed ready for discharge 
to home on a 2 week course of antibiotics. She was instructed to 
reschedule her ___ colonoscopy for at least 8 weeks after this 
admission. She will arrange for an appointment to see Dr. ___ 
in Acute ___ Surgery clinic in the near future. The patient 
demonstrated understanding of her discharge instructions. 
 
Medications on Admission:
Augmentin 
Atenolol 25mg daily
 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 13 Days 
end ___ 
RX *ciprofloxacin HCl [___] 500 mg 1 tablet(s) by mouth twice 
a day Disp #*14 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H Duration: 13 Days 
end ___ 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*21 Tablet Refills:*0 
3.  Atenolol 25 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute uncomplicated sigmoid diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute ___ Surgery on ___ with 
abdominal pain and found to have an infection in your intestine 
called diverticulitis. You were given bowel rest, IV fluids, and 
IV antibiotics. Your abdominal pain improved and your white 
blood cell count, a marker of infection, normalized. You were 
given a regular diet and your antibiotics were transitioned to 
oral which you tolerated well. You are now doing better and 
ready to be discharged to home to continue your recovery. You 
should complete a total of 14 days of oral antibiotics. Your 
first full day of antibiotic dosing was on ___ and therefore 
you should take your antibiotics until ___. You were previously 
prescribed 7 days worth and therefore you were given a 
prescription for another 7 days to total 14 days of treatment. 

You should reschedule your colonoscopy to be at lease 8 weeks 
after hospital discharge. 

Please note the following discharge instrcutions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

 
Followup Instructions:
___